US06075037
c) Ethyl 3(4-methoxyphenyl)-1-(3,4-methylenedioxybenzyl)pyrrolo[2,3-b]pyridine-2-carboxylate
To a solution of ethyl 3-(4-methoxyphenyl)pyrrolo[2,3-b]pyridine-2-carboxylate in HMPA stirred at ice bath temperature under an argon atmosphere is added NaH. A solution of piperonyl chloride in HMPA is added and the ice bath removed. The reaction mixture is stirred at room temperature then partitioned between 3 N HCl and EtOAc. The organic extract is washed successively with H2O, aqueous NaHCO3, H2O and saturated aqueous NaCl and dried (Na2SO4). The solvent is removed in vacuo. The residue is purified by chromatography to afford the title compound.

reactant | ethyl 3-(4-methoxyphenyl)pyrrolo[2,3-b]pyridine-2-carboxylate | COC1=CC=C(C=C1)C1=C(NC2=NC=CC=C21)C(=O)OCC | C17H16N2O3
reactant | NaH | [H-].[Na+]
reactant | piperonyl chloride | C(C1=CC=2OCOC2C=C1)Cl | C8H7ClO2
solvent | HMPA | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Ethyl 3(4-methoxyphenyl)-1-(3,4-methylenedioxybenzyl)pyrrolo[2,3-b]pyridine-2-carboxylate | COC1=CC=C(C=C1)C1=C(N(C2=NC=CC=C21)CC2=CC1=C(C=C2)OCO1)C(=O)OCC | C25H22N2O5
